US03957988
2,7-Bis(5-piperidinovaleryl)thioxanthene
A mixture of 20 g of 2,7-bis(5-chlorovaleryl)thioxanthene, 2 g of potassium iodide, 70 ml of piperidine and 150 ml of tetrahydrofuran was heated in a Paar bomb at 100°C. with stirring for 48 hours. Upon cooling, the solvent was evaporated, and the remaining material was poured into water then filtered. The residue was recrystallized several times from heptane to give the desired product. M.P. 98.5°-99.5°C.

reactant | 2,7-bis(5-chlorovaleryl)thioxanthene | 20 g | ClCCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCCl)=O | C23H24Cl2O2S
reactant | potassium iodide | 2 g | [I-].[K+]
reactant | piperidine | 70 ml | N1CCCCC1 | C5H11N
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2,7-Bis(5-piperidinovaleryl)thioxanthene | N1(CCCCC1)CCCCC(=O)C1=CC=2CC3=CC(=CC=C3SC2C=C1)C(CCCCN1CCCCC1)=O | C33H44N2O2S
